US04620938
A solution of 32.6 g of p-(trans-4-(trans-4-propyl-cyclohexyl)-cyclohexyl)-acetophenone in 100 ml of dioxane is added dropwise to a solution of 40 g of NaOH and 48 g of bromine in 230 ml of water at 20°, while stirring. Stirring is continued for 1 hour. A solution of 14 g of NaHSO3 in 140 ml of water is added and hydrochloric acid is added until the pH is 5. Customary working up (CH2Cl2) gives p-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyl)-benzoic acid. The crude product is boiled with 60 ml of SOCl2 for 2.5 hours. After evaporation, the resulting crude acid chloride is dissolved in 430 ml of dioxane, 200 ml of 25% aqueous ammonia is added and the mixture is poured onto ice and filtered to give p-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyl)-benzamide. 65 g of POCl3 is added dropwise to a solution of 32.7 g of this amide in 500 ml of DMF at 50°, while stirring. After the mixture has been further stirred for 1 hour, it is poured onto ice and worked up in the customary manner (CH2Cl2) to give trans-1-p-cyanophenyl-4-(trans-4-propyl-cyclohexyl)-cyclohexane, m.p. 55°, c.p. 184°.

reactant | p-(trans-4-(trans-4-propyl-cyclohexyl)-cyclohexyl)-acetophenone | 32.6 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C)=O | C23H34O
reactant | NaOH | 40 g | [OH-].[Na+]
reactant | bromine | 48 g | BrBr | Br2
reactant | NaHSO3 | 14 g | OS(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 230 ml | O | H2O
solvent | water | 140 ml | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | p-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyl)-benzoic acid | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C22H32O2
